US08703946B2
A 1M solution of lithium aluminum hydride in THF (2.14 mL, 2.14 mmol) was added dropwise to a stirred solution of rac-6-methyl-2-phenoxymethyl-6,7-dihydro-5H-pyrazolo[1,5-a]pyrazin-4-one (0.5 g, 1.94 mmol) in THF (12 mL) under N2 at 0° C. The reaction mixture was stirred at room temperature for 2.5 days and diluted with AcOEt. Na2SO4.10H2O was added at 0° C. and the mixture stirred for 15 minutes at 0° C., filtered through a pad of diatomaceous earth and then washed with additional AcOEt. The solvents were evaporated in vacuo to yield rac-6-methyl-2-phenoxymethyl-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine (0.45 g, 84% yield) as an oil that crystallized upon standing, and that was used in the next step without further purification.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-6-methyl-2-phenoxymethyl-6,7-dihydro-5H-pyrazolo[1,5-a]pyrazin-4-one | 1.94 mmol, 0.5 g | CC1NC(C=2N(C1)N=C(C2)COC2=CC=CC=C2)=O | C14H15N3O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 2.14 mmol, 2.14 mL | C1CCOC1 | C4H8O
product | rac-6-methyl-2-phenoxymethyl-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine | 0.45 g, 84% yield | CC1NCC=2N(C1)N=C(C2)COC2=CC=CC=C2 | C14H17N3O
